US07378418B2
273B. Preparation of 5-Chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one
To a solution of 2-benzyl-5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one (10.2 gm, 30.8 mmol) in toluene (154 mL) was added aluminum chloride (10.3 g, 77 mmol). The mixture was stirred at 50° C. for 1 h. After this time, the solution was cooled to RT, and the reaction mixture was poured into water (200 mL). The reaction mixture was extracted with EtOAc (3×100 mL). The combined organic layers were washed with saturated NaCl. The organic layer was dried (Na2SO4), filtered and concentrated. The resulting residue was triturated with EtOAc-hexane to give the title compound, 5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one as an off-white solid (6.8 g, 92%). LC/MS (method A): RT=2.91 min, (M+H)+=241;

reactant | 2-benzyl-5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one | 30.8 mmol, 10.2 gm | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)Cl)Cl | C17H12Cl2N2O
reactant | aluminum chloride | 77 mmol, 10.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 200 mL | O | H2O
solvent | toluene | 154 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one | 6.8 g, 92% | ClC1=C(C(NN=C1)=O)C1=CC=C(C=C1)Cl | C10H6Cl2N2O
